US07169805B2
1-[(2S)-3-(4-chlorobutoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline (5.80 g, 0.0157 Mol) was dissolved in CH3CN (100 ml) and NaI (23.9 g, 0.160 Mol) was added to the solution. The mixture was refluxed for 7 h, then concentrated and diluted with CH2Cl2. The solid formed was filtered off and the organic phase was washed with H2O (3×50 ml), dried over sodium sulphate and evaporated under reduced pressure affording 1-[(2S)-3-(4-iodobutoxycarbonyl) mercapto-2-methyl-1-oxopropyl]-L-proline (7.10 g) as an oil that was used without further purification.

reactant | 1-[(2S)-3-(4-chlorobutoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline | 0.0157 Mol, 5.80 g | ClCCCCOC(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C14H22ClNO5S
reactant | NaI | 0.160 Mol, 23.9 g | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 1-[(2S)-3-(4-iodobutoxycarbonyl) mercapto-2-methyl-1-oxopropyl]-L-proline | 7.10 g | ICCCCOC(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C14H22INO5S
